US09210927B2
Preparation of Ethyl 2-chloro-4-vinylbenzoate (AI54)
To a stirred solution of ethyl 2-chloro-4-bromobenzoate (2 g, 7.63 mmol) in dimethylsulfoxide (20 mL) was added potassium vinyltrifluoroborate (3.06 g, 22.9 mmol) and potassium carbonate (3.16 g, 22.9 mmol). The reaction mixture was degassed with argon for 30 min. Bistriphenylphosphine(diphenylphosphinoferrocene)palladium dichloride (0.27 g, 0.38 mmol) was added and the reaction mixture was heated to 80° C. for 1 h. The reaction mixture was diluted with water (100 mL), extracted with ethyl acetate (2×50 mL), washed with brine, dried over Na2SO4 and concentrated under reduced pressure to obtain the compound as brown gummy material (1.1 g, 69%): 1H NMR (400 MHz, CDCl3) δ 7.81 (d, J=8.4 Hz, 1H), 7.46 (s, 1H), 7.33 (d, J=8.4 Hz, 1H), 6.70 (dd, J=17.6, 11.2 Hz, 1H), 5.87 (d, J=17.6 Hz, 1H), 5.42 (d, J=10.8 Hz, 1H), 4.41 (q, J=7.2 Hz, 2H), 1.43 (t, J=7.2 Hz, 3H); ESIMS m/z 211.22 ([M+H]+); IR (thin film) 1729, 886 cm−1.

reactant | ethyl 2-chloro-4-bromobenzoate | 7.63 mmol, 2 g | ClC1=C(C(=O)OCC)C=CC(=C1)Br | C9H8BrClO2
reactant | potassium vinyltrifluoroborate | 22.9 mmol, 3.06 g | C(=C)[B-](F)(F)F.[K+]
reactant | potassium carbonate | 22.9 mmol, 3.16 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylsulfoxide | 20 mL | CS(=O)C | C2H6OS
solvent | water | 100 mL | O | H2O
product | Ethyl 2-chloro-4-vinylbenzoate | 1.1 g, 69% | ClC1=C(C(=O)OCC)C=CC(=C1)C=C | C11H11ClO2
